US07410961B2
A cooled (0° C.) solution of 1-isopropyl-3-oxocyclopentanecarboxylic acid (5.44 g, 32.0 mmol) in DCM (75 mL) was treated with oxalyl chloride (8.36 mL, 95.9 mmol), followed by 3 drops of DMF. The reaction mixture was permitted to warm to room temperature and stir for 1.75 h. The reaction mixture was then concentrated and stored under vacuum for 30 min. The resulting acid chloride was dissolved in DCM (75 mL), cooled to 0° C., and treated with benzyl alcohol (8.28 mL, 80.0 mmol), followed by triethyl amine (8.92 mL, 64.0 mmol, dropwise). Then approximately 100 mg of DMAP was added and the reaction mixture was warmed to room temperature and stirred for 2 h. The reaction mixture was diluted with DCM and washed with 1 N HCl solution, saturated NaHCO3 solution, and brine. The organic layer was dried over anhydrous MgSO4, filtered, and concentrated. Purification by MPLC (silica, 50% ethyl acetate/hexane) gave 6.11 g (73%) of benzyl 1-isopropyl-3-oxocyclopentanecarboxylate. 1H NMR (CDCl3, 500 MHz): δ 7.36 (m, 5H), 5.17 (d, J=2.5 Hz, 2H), 2.85 (d, J=18.5 Hz, 1H), 2.48 (m, 1H), 2.29 (dd, J=10.0, 3.0 Hz, 1H), 1.98-2.23 (m, 3H), 1.93 (m, 1H), 0.95 (m, 6H).

reactant | 1-isopropyl-3-oxocyclopentanecarboxylic acid | 32.0 mmol, 5.44 g | C(C)(C)C1(CC(CC1)=O)C(=O)O | C9H14O3
reactant | oxalyl chloride | 95.9 mmol, 8.36 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzyl alcohol | 80.0 mmol, 8.28 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
catalyst | DMAP | approximately 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | benzyl 1-isopropyl-3-oxocyclopentanecarboxylate | 6.11 g, 73% | C(C)(C)C1(CC(CC1)=O)C(=O)OCC1=CC=CC=C1 | C16H20O3
